US07423012B2
1 M LiOH (5 mL) was added to a solution of 2-[(1-benzyloxycarbonylamino-2-methylpropyl)-methoxy-phosphinoyloxy]-5-tert-butoxycarbonylamino-pentanoic acid methyl ester (187 mg, 0.35 mmol) in acetonitrile (5 mL). The mixture was stirred at 50° C. over night and concentrated under reduced pressure. The crude product was purified using chromathography (iPrOH/conc. aq. NH3/H2O, 4:2:1) to yield 2-[(1-benzyloxycarbonylamino-2-methyl-propyl)-hydroxy-phosphinoyloxy]-5-tert-butoxycarbonylamino-pentanoic acid (180 mg, 100%).

reactant | LiOH | 1 M, 5 mL | [Li+].[OH-]
reactant | 2-[(1-benzyloxycarbonylamino-2-methylpropyl)-methoxy-phosphinoyloxy]-5-tert-butoxycarbonylamino-pentanoic acid methyl ester | 0.35 mmol, 187 mg | COC(C(CCCNC(=O)OC(C)(C)C)OP(=O)(OC)C(C(C)C)NC(=O)OCC1=CC=CC=C1)=O | C24H39N2O9P
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 2-[(1-benzyloxycarbonylamino-2-methyl-propyl)-hydroxy-phosphinoyloxy]-5-tert-butoxycarbonylamino-pentanoic acid | 180 mg, 100% | C(C1=CC=CC=C1)OC(=O)NC(C(C)C)P(=O)(OC(C(=O)O)CCCNC(=O)OC(C)(C)C)O | C22H35N2O9P
